US09079911B2
3-Fluoro-2-(1H-pyrazol-1-yl)benzoic acid.
To a mixture of 3-fluoro-2-iodobenzoic acid (1.4 g, 5.26 mmol), 1H-pyrazole (0.72 g, 10.5 mmol), trans-N,N′-dimethyl-cyclohexane-1,2-diamine (0.17 mL, 1.05 mmol), CuI (50.1 mg, 0.26 mmol), dioxane (50 mL) and water (0.028 mL) was added Cs2CO3 (3.43 g, 10.5 mmol). The reaction mixture was heated to 100° C. for 1 h. The reaction mixture was cooled to ambient temperature then diluted with water. The aqueous layer was acidified to pH2 and extracted with EtOAc (30 mL) three times. The organic layers were combined, dried over Na2SO4, filtered and concentrated. Purification (FCC), (DCM to 10% MeOH/1% HOAC/DCM) afforded the title compound as a colorless oil (790 mg, 72%). 1H NMR (400 MHz, CDCl3): 7.85-7.73 (m, 1H), 7.54-7.44 (m, 1H), 7.44-7.34 (m, 1H), 6.55 (s, 1H).

reactant | 3-fluoro-2-iodobenzoic acid | 5.26 mmol, 1.4 g | FC=1C(=C(C(=O)O)C=CC1)I | C7H4FIO2
reactant | 1H-pyrazole | 10.5 mmol, 0.72 g | N1N=CC=C1 | C3H4N2
reactant | trans-N,N′-dimethyl-cyclohexane-1,2-diamine | 1.05 mmol, 0.17 mL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | Cs2CO3 | 10.5 mmol, 3.43 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | water | O | H2O
catalyst | CuI | 0.26 mmol, 50.1 mg | [Cu]I
solvent | water | 0.028 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 3-Fluoro-2-(1H-pyrazol-1-yl)benzoic acid | 790 mg, 72% | FC=1C(=C(C(=O)O)C=CC1)N1N=CC=C1 | C10H7FN2O2
